US05273982
535 mg of rac-N-[[1-[p-[N-(t-butoxycarbonyl)amidino]phenylacetyl]-3-piperdinyl]carbonyl]-β-alanine benzyl ester were allowed to stand in 11 ml of formic acid for 19 hours, and the mixture was treated with 134 mg of Pd/C and stirred under hydrogen for 4 hours. The solution was filtered and evaporated, the residue was dissolved in water and the solution was evaporated again. The product was stirred in acetonitrile, filtered with suction and dried, yielding 272 mg of rac-N-[[1-[(p-amidinophenyl)acetyl]-3-piperidinyl]carbonyl]-β-alanine, MS: 361 (41, M+H).

reactant | rac-N-[[1-[p-[N-(t-butoxycarbonyl)amidino]phenylacetyl]-3-piperdinyl]carbonyl]-β-alanine benzyl ester | 535 mg | C(C1=CC=CC=C1)OC(CCNC(=O)C1CN(CCC1)C(CC1=CC=C(C=C1)C(NC(=O)OC(C)(C)C)=N)=O)=O | C30H38N4O6
solvent | formic acid | 11 ml | C(=O)O | CH2O2
catalyst | Pd/C | 134 mg | [Pd] | Pd
product | rac-N-[[1-[(p-amidinophenyl)acetyl]-3-piperidinyl]carbonyl]-β-alanine | 272 mg | C(N)(=N)C1=CC=C(C=C1)CC(=O)N1CC(CCC1)C(=O)NCCC(=O)O | C18H24N4O4
